US04794108
In 20 ml of dichloromethane is suspended 550 mg of (3S,4S)-3-(tert-butoxycarbonylamino)-4-carbamoyl-1-(p-nitrobenzyloxycarbonylmethoxy)-2-azetidinone, and 2 ml of anisole and 10 mL of trifluoroacetic acid are added to the suspension under ice-cooling with stirring. After the stirring under ice-cooling for 2 hours, 20 ml of toluene is added to the reaction solution, and the mixtuere is concentreated under reduced pressure. 20 ml of dichloromethane is added to the residue, and 1.06 ml of triethylamine and 964 mg of 2-(2-chloroacetamidothiazol-4-yl)-(Z)- 2-(p-nitrobenzyloxycarbonylmethoxyimino)acetyl chloride hydrochloride (prepared by the method as described in the Japanese Unexamined Patent Publication No. 131758/1982) are added, followed by stirring under ice-cooling for 2 hours. The solvent is distilled off under reduced pressure, and 15 ml of tetrahydrofuran and 15 ml of water are added to the residue. The mixture is adjusted to pH 7 with aqueous sodium hydrogen carbonate solution, and stirred under ice-cooling for 1 hour. The tetrahydrofuran is distilled off under reduced pressure, and crystals which separate out are recovered by filtration, and washed with aqueous sodium hydrogen carbonate solution, water, ether, ethyl acetate andeether successively to give 848 mg (83.0%) of (3S,4S)-4-carbamoyl-3-[2-(2-chloroacetamidothiazol-4-yl)-(Z)-2-(p-nitrobenzyloxycarbonylmethoxyimino)acetamido]-1-(p-nitrobenzyloxycarbonylmethoxy)-2-azetidinone as yellow crystals, which is shown by TLC to contain a slight amount of impurities but used as crude crystals in the substituent reaction, m.p. 147°-153° C.

reactant | (3S,4S)-3-(tert-butoxycarbonylamino)-4-carbamoyl-1-(p-nitrobenzyloxycarbonylmethoxy)-2-azetidinone | 550 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1C(N)=O)OCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H22N4O9
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(2-chloroacetamidothiazol-4-yl)-(Z)- 2-(p-nitrobenzyloxycarbonylmethoxyimino)acetyl chloride hydrochloride | 964 mg | Cl.ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.06 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4S)-4-carbamoyl-3-[2-(2-chloroacetamidothiazol-4-yl)-(Z)-2-(p-nitrobenzyloxycarbonylmethoxyimino)acetamido]-1-(p-nitrobenzyloxycarbonylmethoxy)-2-azetidinone | 848 mg, 83.0% | C(N)(=O)[C@@H]1[C@@H](C(N1OCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)NC(\C(=N/OCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])\C=1N=C(SC1)NC(CCl)=O)=O | C29H25ClN8O14S
